US09216999B2
5-Bromo-4-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine
5-Bromo-1H-pyrrolo[2,3-b]pyridine 7-oxide (150 mg, 0.704 mmol) in N,N-dimethylformamide (2 mL) was heated to 50° C. and stirred with methanesulfonyl chloride (58 μL, 0.75 mmol) at 70° C. for 2 hours and allowed to cool to room temperature. After addition of saturated aqueous sodium chloride, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in N,N-dimethylformamide (2 mL), cooled to 0° C., mixed with sodium hydride (55 wt % dispersion in mineral oil, 45 mg, 1.03 mmol) and [2-(chloromethoxy)ethyl]trimethylsilane (186 μL, 1.05 mmol) and stirred at room temperature for 3 hours. After addition of saturated aqueous sodium chloride, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1 (v/v)) to give the title compound as a pale yellow oil (158 mg, yield 62%).

reactant | 5-Bromo-1H-pyrrolo[2,3-b]pyridine 7-oxide | 0.704 mmol, 150 mg | BrC=1C=C2C(=[N+](C1)[O-])NC=C2 | C7H5BrN2O
reactant | methanesulfonyl chloride | 0.75 mmol, 58 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium hydride | 1.03 mmol, 45 mg | [H-].[Na+]
reactant | [2-(chloromethoxy)ethyl]trimethylsilane | 1.05 mmol, 186 μL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-4-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 158 mg, yield 62% | BrC=1C(=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)Cl | C13H18BrClN2OSi
